US07846929B2
3-(2-Chloro-7-methyl-4-morpholinothieno[3,2-d]pyrimidin-6-yl)benzoic acid (60 mg) was reacted with 1-methylpiperizine via General Procedure B to yield 3-(2-chloro-7-methyl-4-morpholinothieno[3,2-d]pyrimidin-6-yl)phenyl(4-methylpiperazin-1-yl)methanone. Crude 3-(2-chloro-7-methyl-4-morpholinothieno[3,2-d]pyrimidin-6-yl)phenyl(4-methylpiperazin-1-yl)methanone (67 mg) was coupled to 7-azaindole-5-boronic acid pinacol ester via General Procedure A. The product was purified by reverse phase HPLC to yield 19.8 mg of 427. MS (Q1) 554.0 (M)+

reactant | 3-(2-Chloro-7-methyl-4-morpholinothieno[3,2-d]pyrimidin-6-yl)benzoic acid | 60 mg | ClC=1N=C(C2=C(N1)C(=C(S2)C=2C=C(C(=O)O)C=CC2)C)N2CCOCC2 | C18H16ClN3O3S
reactant | 1-methylpiperizine | CN1CCNCC1 | C5H12N2
product | 3-(2-chloro-7-methyl-4-morpholinothieno[3,2-d]pyrimidin-6-yl)phenyl(4-methylpiperazin-1-yl)methanone | ClC=1N=C(C2=C(N1)C(=C(S2)C=2C=C(C=CC2)C(=O)N2CCN(CC2)C)C)N2CCOCC2 | C23H26ClN5O2S
